US09422267B2
To a solution of 6-fluoropyridin-3-amine (586 mg, 5.2 mmol) in dry THF (20 mL) was added 2M solution of isopropylmagnesium chloride in THF (2.6 mL, 5.2 mmol) dropwise under nitrogen at 0° C. The resultant mixture was stirred at 0° C. for 20 min. To this solution was added a solution of methyl 1-(4-(3-cyclopropyl-1H-pyrazol-5-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)piperidine-2-carboxylate (500 mg, 1.31 mmol) in THF (4 mL) dropwise at 0° C. and the reaction mixture was allowed to stir at RT for 3 h. The reaction was quenched with saturated ammonium chloride solution (40 mL). The product was extracted with EtOAc (2×75 mL) and the organic layer was dried over anhydrous sodium sulfate. Removal of EtOAc under reduced pressure afforded an oily residue that was purified by reverse phase HPLC to afford 1-(4-(3-cyclopropyl-1H-pyrazol-5-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)-N-(6-fluoropyridin-3-yl)piperidine-2-carboxamide (12 mg). 1H NMR (400 MHz, CD3OD, freebase) δ (ppm): 0.58-0.68 (m, 2H), 0.82-0.97 (m, 2H), 1.60-1.90 (m, 6H), 2.10-2.24 (m, 3H), 2.30-2.41 (m, 1H), 2.77-2.81 (m, 2H), 2.81-2.91 (m, 2H), 4.46 (d, 1H), 5.39 (s, 1H), 6.06 (s, 1H), 7.00 (dd, 1H), 8.02-8.12 (m, 1H), 8.27 (s, 1H). Separation by chiral HPLC provided enantiomers 9a and 9b.

reactant | 6-fluoropyridin-3-amine | 5.2 mmol, 586 mg | FC1=CC=C(C=N1)N | C5H5FN2
reactant | isopropylmagnesium chloride | C(C)(C)[Mg]Cl
reactant | methyl 1-(4-(3-cyclopropyl-1H-pyrazol-5-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)piperidine-2-carboxylate | 1.31 mmol, 500 mg | C1(CC1)C1=NNC(=C1)NC=1C2=C(N=C(N1)N1C(CCCC1)C(=O)OC)CCC2 | C20H26N6O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 5.2 mmol, 2.6 mL | C1CCOC1 | C4H8O
product | 1-(4-(3-cyclopropyl-1H-pyrazol-5-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)-N-(6-fluoropyridin-3-yl)piperidine-2-carboxamide | 12 mg | C1(CC1)C1=NNC(=C1)NC=1C2=C(N=C(N1)N1C(CCCC1)C(=O)NC=1C=NC(=CC1)F)CCC2 | C24H27FN8O
